US07456186B2
Preparation of 2-(3-Bromobenzoyl)-1H-imidazole
A solution of imidazole (2.66 g, 39.1 mmol) and triethylamine (Et3N) 8.03 g, 79.4 mmol) in pyridine at 0° C. is treated with 3-bromobenzoyl chloride (17.5 g, 79.9 mmol), stirred for 5 min, allowed to warm to room temperature for 45 min, treated with an aqueous sodium hydroxide solution (7.5 N, 20 mL, 150 mmol), heated at reflux temperature for 2 h, cooled to room temperature, diluted with water, further cooled with an ice bath for 1 h and filtered. The filtercake is washed with water and dried under vacuum at 50° C. overnight to afford the title compound as a light tan solid, 4.89 g (50% yield), identified by NMR and mass spectral analyses. 1H NMR (500 MHz, CDCl3) δ 10.58 (br s, 1H), 8.73 (t, J=1.8 Hz, 1H), 8.61 (dt, J=7.8, 1.2 Hz, 1H), 7.75-7.72 (m, 1H), 7.42-7.38 (m, 2H), 7.32 (s, 1H); ESI MS m/z 250 [C10H7BrN2O+H]+.

reactant | imidazole | 39.1 mmol, 2.66 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 79.4 mmol, 8.03 g | C(C)N(CC)CC | C6H15N
reactant | 3-bromobenzoyl chloride | 79.9 mmol, 17.5 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | sodium hydroxide | 150 mmol, 7.5 N, 20 mL | [OH-].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(3-Bromobenzoyl)-1H-imidazole | 50% yield | BrC=1C=C(C(=O)C=2NC=CN2)C=CC1 | C10H7BrN2O
